US06689922B1
(4E,6E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethylocta-4,6-dien-3-ol
In a manner similar to Example 53(e), by reacting 150 mg (0.34 mmol) of dimethyl 4-[3-((1E,3E)-5-ethyl-5-hydroxy-1-methylhepta-1,3-dienyl)phenoxymethyl]phthalate with 30 mg (1.35 mmol) of lithium borohydride, a colourless oil is obtained (m=56 mg; Y=42%).

reactant | dimethyl 4-[3-((1E,3E)-5-ethyl-5-hydroxy-1-methylhepta-1,3-dienyl)phenoxymethyl]phthalate | 0.34 mmol, 150 mg | C(C)C(/C=C/C=C(\C)/C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C27H32O6
reactant | lithium borohydride | 1.35 mmol, 30 mg | [BH4-].[Li+]
product | (4E,6E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethylocta-4,6-dien-3-ol | OCC=1C=C(COC=2C=C(C=CC2)/C(=C/C=C/C(CC)(O)CC)/C)C=CC1CO | C25H32O4
